US08609647B2
(5) Optically-Active Compound of 2-(3-oxopropyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a suspension of 2-(3-hydroxypropyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (17.4 g) and sodium bicarbonate (12.7 g) in chloroform (175 ml) cooled to 0° C. was added Dess-Martin periodinane (28.3 g). The reaction mixture was warmed to room temperature and stirred for 1.5 hours. To the reaction mixture was added additional Dess-Martin periodinane (1.0 g), and the mixture was stirred for 50 minutes. To the reaction mixture cooled to 0° C. was added additional Dess-Martin periodinane (15 g), and the mixture was stirred for 2 hours. To the mixture were added 20% sodium thiosulfate (250 ml) and saturated aqueous sodium bicarbonate solution (250 ml), and the mixture was stirred at room temperature for 20 minutes. The mixture was extracted with chloroform (200 ml×2) twice, and the combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1 to 3/2) to give the titled compound (5.68 g).

reactant | 2-(3-hydroxypropyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 17.4 g | COC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CCCO | C14H25NO5
reactant | sodium bicarbonate | 12.7 g | C([O-])(O)=O.[Na+]
reactant | Dess-Martin periodinane | 28.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 1.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 15 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | 250 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 175 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-oxopropyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 5.68 g | COC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CCC=O | C14H23NO5
